US07488740B2
2. 7-[3-(Trifluoromethyl)pyridin-2-yl]-4-{[5-(trifluoromethyl)pyridin-2-yl]amino}-1,8-naphthyridin-2-ol
Heat 2-methoxy-7-[3-(trifluoromethyl)pyridin-2-yl]-N-[5-(trifluoromethyl)pyridin-2-yl]-[1,8]naphthyridin-4-amine (128 mg), 1M hydrochloric acid in ether (0.25 mL) and isopropanol at 80° C. overnight. Cool and collect the precipitate by filtration to give the hydrochloride salt of the title compound.

reactant | 2-methoxy-7-[3-(trifluoromethyl)pyridin-2-yl]-N-[5-(trifluoromethyl)pyridin-2-yl]-[1,8]naphthyridin-4-amine | 128 mg | COC1=NC2=NC(=CC=C2C(=C1)NC1=NC=C(C=C1)C(F)(F)F)C1=NC=CC=C1C(F)(F)F | C21H13F6N5O
reactant | hydrochloric acid | 1M | Cl | ClH
solvent | ether | 0.25 mL | CCOCC | C4H10O
solvent | isopropanol | C(C)(C)O | C3H8O
product | 7-[3-(Trifluoromethyl)pyridin-2-yl]-4-{[5-(trifluoromethyl)pyridin-2-yl]amino}-1,8-naphthyridin-2-ol | FC(C=1C(=NC=CC1)C1=CC=C2C(=CC(=NC2=N1)O)NC1=NC=C(C=C1)C(F)(F)F)(F)F | C20H11F6N5O
